US06869952B2
A. 4-Chloro-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester
A mixture of 4-hydroxy-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester (60.0 g, 271.2 mmol, for preparation see WO 0071129), phosphorus oxychloride (30.3 mL, 325.4 mmol) and diisopropylethyl amine (37.7 mL, 217 mmol) in toluene (800 mL) was heated to reflux under argon for 18 h and then cooled to room temperature. The mixture was concentrated on rotovap and the residue was diluted with dichloromethane (1000 mL) and cold sodium bicarbonate solution (300 mL). The resulting mixture was stirred at room temperature for 10 min. The separated organic layer was washed with cold brine (300 mL), dried, and concentrated in vacuo. The crude material was purified by chromatography on silica gel eluting with dichloromethane to provide the desired compound (64.8 g, 99%) as a yellow solid.

reactant | 4-hydroxy-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester | 271.2 mmol, 60.0 g | C(C)OC(=O)C=1C(=C2C(=NC=NN2C1)O)C | C10H11N3O3
reactant | phosphorus oxychloride | 325.4 mmol, 30.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diisopropylethyl amine | 217 mmol, 37.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 800 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid ethyl ester | 64.8 g, 99% | C(C)OC(=O)C=1C(=C2C(=NC=NN2C1)Cl)C | C10H10ClN3O2
